US06297261B1
4-Carboxyphenylboronic acid
To a solution of 4-methylphenylboronic acid (34 g, 0.25 mol) in aqueous sodium hydroxide (0.5 N, 1000 mL) was added potassium permanganate (83 g, 0.53 mol) while keeping the temperature at 35-40° C. After the addition the reaction was filtered and the filtrate acidified with concentrated hydrochloric acid (65 mL). The product was filtered off. A yield of 29.6 g was obtained. M.p. 228° C.

reactant | 4-methylphenylboronic acid | 0.25 mol, 34 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | potassium permanganate | 0.53 mol, 83 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | 0.5 N, 1000 mL | [OH-].[Na+]
product | 4-Carboxyphenylboronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
